US07763657B2
N-(4-{1-[3-(4-tert-Butylphenyl)ureido]methyl}-2-vinylphenyl)methanesulfonamide
N-[4-(1-Amino-ethyl)-2-vinyl-phenyl]-methanesulfonamide (236.7 mg, 0.985 mmol) and triethylamine (274.6 μl, 1.970 mmol, 2 eq) were added in methylene chloride. The reaction mixture was cooled down to 0° C. 4-tert-Butylphenyl isocyanate (192.5 μl, 1.083 mmol, 1.3 eq.) was added into the mixture. The reaction mixture was stirred for 40 min. A reaction solvent was removed in vacuo. The residue was purified with column chromatography (n-Hx:EA=2:1) to yield title compound (155.4 mg, 47%) as a white solid.

reactant | N-[4-(1-Amino-ethyl)-2-vinyl-phenyl]-methanesulfonamide | 0.985 mmol, 236.7 mg | NC(C)C1=CC(=C(C=C1)NS(=O)(=O)C)C=C | C11H16N2O2S
reactant | triethylamine | 1.970 mmol, 274.6 μl, 2 eq | C(C)N(CC)CC | C6H15N
reactant | 4-tert-Butylphenyl isocyanate | 1.083 mmol, 192.5 μl, 1.3 eq. | C(C)(C)(C)C1=CC=C(C=C1)N=C=O | C11H13NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(4-{1-[3-(4-tert-Butylphenyl)ureido]methyl}-2-vinylphenyl)methanesulfonamide | 155.4 mg, 47% | C(C)(C)(C)C1=CC=C(C=C1)NC(NCC1=CC(=C(C=C1)NS(=O)(=O)C)C=C)=O | C21H27N3O3S
